US05051422
4-(3-Methoxyphenyl)-1-(phenylmethyl)-2-piperazinecarboxamide
In a manner similar to Preparation 1, react N-(3-methoxyphenyl)-N'-(phenylmethyl)-1,2-ethanediamine (16 g, 63 mmol) with 2,3-dibromopropanamide (29 g, 126 mmol) and triethylamine (25 g, 0.25mol) to give the title compound.

reactant | N-(3-methoxyphenyl)-N'-(phenylmethyl)-1,2-ethanediamine | 63 mmol, 16 g | COC=1C=C(C=CC1)NCCNCC1=CC=CC=C1 | C16H20N2O
reactant | 2,3-dibromopropanamide | 126 mmol, 29 g | BrC(C(=O)N)CBr | C3H5Br2NO
reactant | triethylamine | 0.25mol, 25 g | C(C)N(CC)CC | C6H15N
product | 4-(3-Methoxyphenyl)-1-(phenylmethyl)-2-piperazinecarboxamide | COC=1C=C(C=CC1)N1CC(N(CC1)CC1=CC=CC=C1)C(=O)N | C19H23N3O2
